US05256780
To a solution of 3,4-dihydro-5-methylpyrimido[1,6-a]-indol-1(2H)-one (0.67 g) in N,N-dimethylformamide (8 ml) at 5° C. was added sodium hydride (60% in mineral oil, 0.16 g). The mixture was stirred at 5° C. for 40 minutes and then at room temperature for 15 minutes and again cooled to 5° C. 4-Chloromethyl-5-methyl-1-trityl-1H-imidazole (1.50 g) was added to the solution in small portions over two minutes. After being stirred at 5° C. for 2 hours, the reaction mixture was diluted with chilled water to give precipitates. The precipitates collected were dissolved in dichloromethane. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Column chromatography (silica gel, 0.5% methanol in chloroform as an eluent) of the residue, followed by recrystallization from toluene-hexane, gave 3,4-dihydro-5-methyl-2-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrimido[1,6-a]indol-1 (2H)-one (1.16 g).

reactant | 3,4-dihydro-5-methylpyrimido[1,6-a]-indol-1(2H)-one | 0.67 g | CC1=C2N(C3=CC=CC=C13)C(NCC2)=O | C12H12N2O
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 4-Chloromethyl-5-methyl-1-trityl-1H-imidazole | 1.50 g | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,4-dihydro-5-methyl-2-[(5-methyl-1-trityl-1H-imidazol-4-yl)methyl]pyrimido[1,6-a]indol-1 (2H)-one | 1.16 g | CC1=C2N(C3=CC=CC=C13)C(N(CC2)CC=2N=CN(C2C)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C36H32N4O
